US04985450
3-(2-Methoxyphenyl)-1,2,4-thiadiazole-5-sulfenamide
A solution of 4.6 g of 5-mercapto-3-(2-methoxyphenyl)-1,2,4-thiadiazole in 70 ml of 5% sodium hydroxide and a solution prepared by diluting 44 ml of 5.25% NaCl to 70 ml with water were added dropwise simultaneously to 190 ml of ammonium hydroxide solution while maintaining the mixture at 0° with an ice/methanol bath. The resulting mixture was stirred for 10 minutes and the solids were collected, washed with water and dried under high vacuum (with P2O5) to give 3.0 g of solid, m.p. 136°-138° C. dec.

reactant | 5-mercapto-3-(2-methoxyphenyl)-1,2,4-thiadiazole | 4.6 g | SC1=NC(=NS1)C1=C(C=CC=C1)OC | C9H8N2OS2
reactant | NaCl | 44 ml | [Na+].[Cl-]
reactant | ammonium hydroxide | 190 ml | [OH-].[NH4+]
solvent | sodium hydroxide | 70 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(2-Methoxyphenyl)-1,2,4-thiadiazole-5-sulfenamide | 3.0 g | COC1=C(C=CC=C1)C1=NSC(=N1)SN | C9H9N3OS2
